US04804661
72.9 g of 3,5-dimethoxybenzoic acid are suspended in 320 ml of toluene, and 2 drops of dimethylformamide are added thereto. The suspension is heated to 50°. 40 ml of thionyl chloride are added dropwise at that temperature within a period of 10 minutes. The whole is then heated to 90° (vigorous evolution of gas) and stirred for 2 hours. The reaction mixture is cooled and concentrated by evaporation in a rotary evaporator. After the addition of toluene, the whole is again concentrated by evaporation. The oily residue is dried for 15 minutes under a high vacuum. 3,5-dimethoxybenzoyl chloride is thus obtained.

reactant | 3,5-dimethoxybenzoic acid | 72.9 g | COC=1C=C(C(=O)O)C=C(C1)OC | C9H10O4
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 320 ml | C1(=CC=CC=C1)C | C7H8
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 3,5-dimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1)OC | C9H9ClO3
